US05175157
N-Benzyl-caprolactam
33.9 g (0.3 mol) of caprolactam are dissolved in 200 ml of absolute dimethylsulphoxide and 100 ml of absolute tetramethyl urea and 14.4 g (0.33 mol) of 55% sodium hydride/oil dispersion is added in batches. The resulting jelly-like precipitate is stirred for 2 hours at ambient temperature. Then 38 g=34.4 ml (0.3 mol) of benzyl chloride are added dropwize, the mixture is stirred for 2 hours at ambient temperature and then poured onto ice water. The aqueous phase is extracted twice with ethyl acetate. The organic phases are combined, washed four times with water, dried over magnesium sulphate and concentrated by evaporation in vacuo. The residue remaining is distilled in vacuo. Yield: 49.9 g (81.8% of theory), Bp 0.27 mm Hg: 110°-114° C.

reactant | caprolactam | 0.3 mol, 33.9 g | C1(CCCCCN1)=O | C6H11NO
reactant | tetramethyl urea | 100 ml | CN(C(N(C)C)=O)C | C5H12N2O
reactant | sodium hydride | 0.33 mol, 14.4 g | [H-].[Na+]
reactant | benzyl chloride | 0.3 mol, 34.4 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylsulphoxide | 200 ml | CS(=O)C | C2H6OS
product | N-Benzyl-caprolactam | C(C1=CC=CC=C1)N1C(CCCCC1)=O | C13H17NO
